.subckt MAX912   1 2 3 4 352 300  433  483
*
* NOTE1: QOUTCOMP IS ACTUALLY COMPLIMENTED QOUT.
* NOTE2: INCLUDE 
*            .OPTION ITL4=50 RELTOL=0.001 
*                                        TO ENHANCE CONVERGENCE.
***
  f101    3  9 v1 1
  Iee100   7  400 dc 100.0E-6
  q101    9  20  7 qin
  Q2    8  21  7 qin
  Q3    9  8  399 qmo
  Q4    8  8  399 qmi
  VMB 400 4 0V
  VPB 399 3 0V
***================
VIN1 2 23 .95
VIN2 1 25 .95
***
IPSUP 3 0 6ma
INSUP 0 4 300ua
***
EHYST 23 20 POLY(1) 0 60 0 1
VS2 21 25 0V
.model qin NPN(Is=800.0E-18 Bf=16.67)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=6.475E-9)
.MODEL PMOS PMOS 
*(VTO=-1.7 KP=1.8E-3)
  e1   10  4  3  9  2
  v1   10 11 dc 0
  q5    5 11  44 qoc
  vshift 44 4 0v
  *clamps output, Q5 collector load.
  R55 3 5 1meg
  DP5 5 3 DP
  DP6 4 5 DP
***============= Hysterisis section
GH 0 51 32 101 1E-6
ECM 101 0 3 4 0.5
RCM 101 0 10MEG
****==============COMPARATOR POINT FOR CREATING LOGIC OUTPUT, +-1, hi,lo.
RH1 3 51 1E11
RH2 4 51 1E11
DP1 51 52 DP
DP2 53 51 DP
VP1 52 0 1V
VP2 53 0 -1V
***=================
IHYST 55 0 -.2E-9
*GENERATES .2MV OF HYST. TO MIMIC SMOOTH TRANSITION.
RREF 55 0 1E6
*LOGIC OUTPUT, NODE 60 ALTERS THE POLARITY, SO 55 SHOULD ALWAYS BE POS.
GMULT 60 0 POLY(2) 51 0 55 0 0 0  0 0 1E-6
RMULT 60 0 1E6
*================
*EH 3 98 3 4 0.5
VVIRTUAL 98 0 0V
G12 98 32 5 0 7.04E-3
R15 98 32 140
*========================
.model qoc NPN(Is=800.0E-18 Bf=181 Cjc=1E-15 Tf=15.8e-12 Tr=4.172E-9)
.MODEL DX  D(Is=800.0E-18)
.MODEL DP D(N=0.001)
*=======================
***== MODELS USED ==***
.MODEL DX2 D(IS=1E-15 n=0.001) 
*** **********************************  
*** **********************************
VCONNECT 302 32 0V
* AND1
* 302, 312 is the input, output is 333.
RN1 302 303 1MEG             
DA1 305 330 DP
DA2 300 305 DP
RA2 304 305 1MEG
EA1 304 300 POLY(1) 302 303 0 10 
***
RN10 312 303 1MEG ;node 303 is 1.4volts.            
DA10 315 330 DP
DA12A 300 315 DP
RA12 314 315 1MEG 
EA11 314 300 POLY(1) 312 303 0 -10
*-10 COMPLIMENTS LE, SO LOW IS TRANSPARENT    
***
GAMULT 300 331 POLY(2) 305 300 315 300  0 0 0 0 1E-6
RAMULT 331 300 1G
DA5 331 330 DP
DA6 300 331 DP 
EOA 332 300 331 300 1
ROA 332 333 100
***
* AND2
* 352, 362 is the input, output is 383.
RN12 352 303 1MEG             
ILE 352 300 -20UA
DA12 355 380 DP
DA22 300 355 DP
RA22 354 355 1MEG
EA12 354 300 POLY(1) 352 303 0 -10
*-10 COMPLIMENTS LE, SO LOW IS TRANSPARENT
***
RN102 362 303 1MEG ;node 303 is 1.4volts.            
DA102 365 380 DP
DA122 300 365 DP
RA122 364 365 1MEG 
EA112 364 300 POLY(1) 362 303 0 10 
***
GAMULT2 300 381 POLY(2) 355 300 365 300  0 0 0 0 1E-6
RAMULT2 381 300 1G
DA52 381 330 DP
DA62 300 381 DP 
EOA2 382 300 381 300 1
ROA2 382 383 100
***
* OR1
* 402,412 are the inputs, output is 433
RO1 402 403 1MEG             
VO14 403 300 1.4V 
VO1 430 300 5V
DO1 405 430 DP
DO2 300 405 DP
RO2 404 405 1MEG ; WAS 1MEG
EO1 404 300 POLY(1) 402 403 0 10 
***
RO10 412 403 1MEG ;node 403 is 1.4volts.            
DO10 415 430 DP
DO12 300 415 DP
RO12O 414 415 300 ; WAS 1MEG
EO11 414 300 POLY(1) 412 403 0 10 
***
GOADD1 300 431 POLY(2) 405 300 415 300 0 1E-6 1E-6
ROADD 431 300 1G
DO5 431 430 DP
DO6 300 431 DP 
EOO 432 300 431 300 1
ROO 432 433 75 ; OUTPUT IS 433
* OR2 
* 452,462 are the inputs, output is 488
RO12 452 403 1MEG             
VO12 480 300 5V
DO12O 455 480 DP
DO22 300 455 DP
RO22 454 455 1MEG ; WAS 1MEG
EO12 454 300 POLY(1) 452 403 0 10 
***
RO102 462 403 1MEG ;node 403 is 1.4volts.            
DO102 465 480 DP
DO122 300 465 DP
RO122 464 465 300 ; WAS 1MEG
EO112 464 300 POLY(1) 462 403 0 10 
***
GOADD12 300 481 POLY(2) 455 300 465 300 0 1E-6 1E-6
ROADD2 481 300 1G
DO52 481 480 DP
DO62 300 481 DP 
EOO2 482 300 481 300 1
ROO2 482 483 75 ; OUTPUT IS 483
* INVERTER1
*INPUT 602, OUTPUT  605
RIN1 602 303 1MEG             
DIA1 605 630 DP
DIA2 300 605 DP
vi1 630 300 5v
RIA2 604 605 10k
EIA1 604 300 POLY(1) 602 303 0 -10
* INVERTER2
*INPUT 612, OUTPUT 615
RIN12 612 303 1MEG             
DIA12 615 640 DP
DIA22 300 615 DP
vi12 640 300 5v
RIA22 614 615 10k
EIA12 614 300 POLY(1) 612 303 0 -10
* INVERTER3
*INPUT 622, OUTPUT 625
RIN13 622 303 1MEG             
DIA13 625 650 DP
DIA23 300 625 DP
vi13 650 300 5v
RIA23 624 625 10k
EIA13 624 300 POLY(1) 622 303 0 -10
*** ********BIASING****************
*** *******************************
VA14 303 300 1.4V 
VA1 330 300 5V
*VDGND 300 0 0V ;           **** Will be brought out in subckt.
***
* CONNECTIONS *********************
VSH1 605 362 0V
VSH2 312 352 0V
VSH3 333 402 0V
VSH4 383 462 0V
VSH5 433 622 0V
VSH6 625 452 0V
VSH7 483 612 0V
VSH8 615 412 0V
VSH9 302 602 0V
.ENDS MAX912
